US06835732B2
5-Methyl-thiophene-2-carboxylic acid (7-bromo-4-methoxy-benzothiazol-2-yl)-amide
2-Amino-7-bromo-4-methoxybenzothiazol (2.33 g, 9 mmol) is dissolved in dichloromethane (100 ml) and at 0° C. treated with pyridine (2.2 ml, 27 mmol) and 5-methyl-thiophene-2-carbonyl chloride (2.2 g, 13.5 mmol). The reaction mixture is allowed to warm to room temperature and after stirring for additional 18 h quenched with water (100 ml). After separation of the phases, the aqueous phases are extracted twice with ethyl acetate. The combined organic layers are then washed with brine, dried and avaporated to dryness. Flash chromatography on silica (eluent ethyl acetate/cyclohexane 1:1 to 4:1) and final recrystallization from ethyl acetate affords the product as off-white solid. (34 mg, 69%). MS: m/e=384 (M+).

reactant | 2-Amino-7-bromo-4-methoxybenzothiazol | 9 mmol, 2.33 g | NC=1SC2=C(N1)C(=CC=C2Br)OC | C8H7BrN2OS
reactant | pyridine | 27 mmol, 2.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-methyl-thiophene-2-carbonyl chloride | 13.5 mmol, 2.2 g | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Methyl-thiophene-2-carboxylic acid (7-bromo-4-methoxy-benzothiazol-2-yl)-amide | BrC1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C14H11BrN2O2S2
